US04176184
43.8 gm of 4,4-dimethyl-7-acetamino-8-nitro-2H,4H-isoquinoline-1,3-dione were admixed with 200 gm of xylene with 104 gm of benzoyl chloride, and the mixture was refluxed for 10 hours while stirring. After cooling, the reaction mixture was suction-filtered, and the filter cake was washed with toluene and petroleum ether, yielding 36 gm (68% of theory) of 4,4-dimethyl-7-benzoylamino-8-nitro-2H,4H-isoquinoline-1,3-dione, m.p. above 270° C.

reactant | 4,4-dimethyl-7-acetamino-8-nitro-2H,4H-isoquinoline-1,3-dione | 43.8 gm | CC1(C(NC(C2=C(C(=CC=C12)NC(=O)C)[N+](=O)[O-])=O)=O)C | C13H13N3O5
reactant | benzoyl chloride | 104 gm | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | xylene | 200 gm | C=1(C(=CC=CC1)C)C | C8H10
product | 4,4-dimethyl-7-benzoylamino-8-nitro-2H,4H-isoquinoline-1,3-dione | 36 gm, 68% | CC1(C(NC(C2=C(C(=CC=C12)NC(C1=CC=CC=C1)=O)[N+](=O)[O-])=O)=O)C | C18H15N3O5
